US07439257B2
4.4. 2-(methylamino)-2-oxoethyl 4-[(4-bromophenyl)oxy]-1-piperidinecarboxylate
2.9 g (7.5 mmol) of 2-(ethyloxy)-2-oxoethyl 4-[(4-bromophenyl)oxy]-1-piperidinecarboxylate, prepared in Step 4.3., in solution in 10 ml of a 33% ethanolic solution of methylamine are stirred at ambient temperature for 20 hours. Following evaporation, the product is purified by chromatography on silica gel, eluting with ethyl acetate, to give 0.8 g of product in gum form, which is used as it is in the following step.

reactant | 2-(ethyloxy)-2-oxoethyl 4-[(4-bromophenyl)oxy]-1-piperidinecarboxylate | 7.5 mmol, 2.9 g | BrC1=CC=C(C=C1)OC1CCN(CC1)C(=O)OCC(=O)OCC | C16H20BrNO5
reactant | methylamine | CN | CH5N
product | 2-(methylamino)-2-oxoethyl 4-[(4-bromophenyl)oxy]-1-piperidinecarboxylate | 0.8 g | BrC1=CC=C(C=C1)OC1CCN(CC1)C(=O)OCC(=O)NC | C15H19BrN2O4
